US07417060B2
To a solution of (1R)-2-[[3-(4-bromophenyl)propyl]-amino]-1-(3-pyridyl)ethanol (3.22 g) in tetrahydrofuran (32 ml) was added di-tert-butyl dicarbonate (2.14 g) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under-reduced pressure and the residue was extracted with ethyl acetate. The organic layer was washed with water and brine and dried over magnesium sulfate. Filtration and evaporation under reduced pressure gave a crude product (3.25 g) which was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=1.5/1 to 2/1) to give tert-butyl [3-(4-bromophenyl)propyl][(2R)-2-hydroxy-2-(3-pyridyl)ethyl]-carbamate (3.25 g) as a pale yellow oil.

reactant | (1R)-2-[[3-(4-bromophenyl)propyl]-amino]-1-(3-pyridyl)ethanol | 3.22 g | BrC1=CC=C(C=C1)CCCNC[C@H](O)C=1C=NC=CC1 | C16H19BrN2O
reactant | di-tert-butyl dicarbonate | 2.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | tert-butyl [3-(4-bromophenyl)propyl][(2R)-2-hydroxy-2-(3-pyridyl)ethyl]-carbamate | 3.25 g | BrC1=CC=C(C=C1)CCCN(C(OC(C)(C)C)=O)C[C@@H](C=1C=NC=CC1)O | C21H27BrN2O3
